** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/testbenches/tb_unit_cell_n_tran.sch
**.subckt tb_unit_cell_n_tran
x1 bit net3 GND d vdd net4 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=20f n=32
V1 vdd GND 1.8
V2 net5 GND PULSE(0 1.8 0 10p 10p 5n 10n
V3 vcm GND 0.9
V4 net6 GND PULSE(1.8 0 0 10p 10p 20n 50n 2)
S1 top vcm s GND SW1
V5 s GND PULSE(-10 10 0 10p 10p 15n 50n 1)
S2 net2 net1 s GND SW1
S3 vcm net1 GND s_d SW1
V6 net2 GND 1.4
V7 s_d GND PULSE(-10 10 0 10p 10p 15.2n 50n 1)
via net1 net3 0
vitop net4 top 0
R1 d net6 10 m=1
R2 net5 bit 10 m=1
**** begin user architecture code


.param temp=27
.param W_P = 1.0u
.param L_P = 0.13u
.param W_N = 1.0u
.param L_N = 0.13u
*.options savecurrents klu method=gear reltol=1e-2 abstol=1e-15 gmin=1e-15
.control

* Transient Analysis
tran 1p 50n

plot top {bit +2} {d +4} {s + 6}
plot i(V2) i(V3) i(V6)
plot s s_d
plot i(via) i(vitop)
plot x1.vcap
plot {x1.vcap - vtop}
plot i(x1.x1.vleak)


.endc




** IHP models
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice


**** end user architecture code
**.ends

* expanding   symbol:  dac_icms_cell/unit_cell_n.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sch
.subckt unit_cell_n B A VSS D VDD vtop  W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin A
*.iopin VDD
*.ipin D
*.iopin B
*.iopin vtop
x1 VDD D VSS net1 B A dac_switch_n W_P_TG=0.15u L_P_TG=0.13u W_N_TG=0.15u L_N_TG=0.13u n=n
C1 net1 vtop Cu m=n
.ends


* expanding   symbol:  dac_icms_cell/dac_switch_n.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch_n.sch
.subckt dac_switch_n VDD di_spdt_ctrl VSS v_c v_b v_a  W_P_TG=3.0u L_P_TG=0.13u W_N_TG=1.0u L_N_TG=0.13u n=1
*.iopin v_a
*.iopin v_c
*.iopin VDD
*.iopin VSS
*.ipin di_spdt_ctrl
*.iopin v_b
x8 VDD di_spdt_ctrl di_spdt_ctrl_n VSS inverter_lv W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG n=n
XM1 net1 net2 VSS VSS sg13_lv_nmos w=1u l=0.2u ng=1 m=n
XM3 net1 net2 VDD VDD sg13_lv_pmos w=1.2u l=0.2u ng=1 m=n
x2 VDD di_spdt_ctrl VSS v_c net1 di_spdt_ctrl_n transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
+ W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
XM2 net2 v_b VSS VSS sg13_lv_nmos w=0.5u l=0.13u ng=1 m=n
XM4 net2 v_b VDD VDD sg13_lv_pmos w=0.5u l=0.13u ng=1 m=n
x1 VDD di_spdt_ctrl_n VSS v_c v_a di_spdt_ctrl transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
.ends


* expanding   symbol:  inverter/inverter_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sch
.subckt inverter_lv VDD vin vout VSS  W_P=3.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XM2 vout vin VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
.ends


* expanding   symbol:  transmission_gate/transmission_gate_lv_w_dummy.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sch
.subckt transmission_gate_lv_w_dummy VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n  W_P=2.0u L_P=0.13u W_N=2.0u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=1
*.iopin v_a
*.iopin v_b
*.iopin VDD
*.iopin VSS
*.ipin di_tg_ctrl
*.ipin di_tg_ctrl_n
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XMdummy2 v_b di_tg_ctrl v_b VDD sg13_lv_pmos w=W_P l=L_P ng=1 m={n/2}
XMdummy1 v_b di_tg_ctrl_n v_b VSS sg13_lv_nmos w=W_N l=L_N ng=1 m={n/2}
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.9 VH=0.01
+ RON=10 ROFF=1G
**** end user architecture code
.end
